US09380782B2
A mixture of aluminium chloride 6.53 g, sodium azide 9.55 g and tetrahydrofuran 100 mL was stirred with heating under reflux for two hours. The reaction mixtures were cooled under ice-cooling and thereto were added 3-trifluoromethyl-2-methylbenzoic acid chloride and tetrahydrofuran 100 mL and the mixtures were stirred with heating under reflux for ten hours. After cooling the mixtures, to a mixture of sodium nitrite 14.7 g and water 200 mL was added the reaction mixtures with stirring. The mixtures were acidified with concentrated hydrochloric acid and were then extracted with ethyl acetate. The organic layers were dried over anhydrous sodium sulfate and the resulting mixtures were then concentrated under reduced pressure to give 1-(2-methyl-3-trifluoromethylphenyl)-1,4-dihydrotetrazole-5-one.

reactant | aluminium chloride | 6.53 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sodium azide | 9.55 g | [N-]=[N+]=[N-].[Na+]
reactant | 3-trifluoromethyl-2-methylbenzoic acid chloride | FC(C=1C(=C(C(=O)Cl)C=CC1)C)(F)F | C9H6ClF3O
reactant | sodium nitrite | 14.7 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | water | 200 mL | O | H2O
product | 1-(2-methyl-3-trifluoromethylphenyl)-1,4-dihydrotetrazole-5-one | CC1=C(C=CC=C1C(F)(F)F)N1N=NNC1=O | C9H7F3N4O
